2139-08-25 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Admitted, CVVH
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   Heparin Sodium - 700 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2139-8-25**] 03:56 AM
   Dextrose 50% - [**2139-8-25**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-25**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.4
C (95.8
   HR: 79 (74 - 98) bpm
   BP: 97/59(62) {87/38(49) - 120/74(83)} mmHg
   RR: 13 (10 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 73 kg
    CVP: 13 (9 - 19)mmHg
   Total In:
                                                                    658 mL
                                                                  2,271 mL
   PO:
   TF:
   IVF:
                                                                    633 mL
                                                                  2,246 mL
   Blood products:
   Total out:
                                                                    515 mL
                                                                  2,289 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    143 mL
                                                                    -18 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), left
   axilla
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles : 1/3 up,
   Diminished: at right base)
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   338 K/uL
   12.6 g/dL
   84 mg/dL
   4.3 mg/dL
   23 mEq/L
   5.2 mEq/L
   51 mg/dL
   94 mEq/L
   135 mEq/L
   40.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2139-8-24**]  07:15 PM
                             [**2139-8-24**]  10:43 PM
                             [**2139-8-25**]  01:58 AM
                             [**2139-8-25**]  03:38 AM
   WBC
   9.3
   7.5
   Hct
   40.8
   40.0
   Plt
   326
   338
   Cr
   5.9
   4.8
   4.3
   TropT
   0.77
   0.77
   Glucose
   41
   96
   84
   Other labs: PT / PTT / INR:23.4/>150.0/2.2, CK / CKMB /
   Troponin-T:48//0.77, ALT / AST:35/37, Alk Phos / T Bili:200/0.3,
   Differential-Neuts:63.4 %, Lymph:27.3 %, Mono:7.3 %, Eos:1.6 %, Lactic
   Acid:1.4 mmol/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   # Chest Pain/CAD: Given the history, this pattern of chest pain fits
   unstable angina, though this could either be from plaque rupture vs
   increased cardiac demand in excess of known poor supply.
   - Appreciate cardiology recs
   - cont  IV heparin gtt
   - trend cardiac biomarkers ; so far no e/o acute infarct
   - ultrafiltration to improve CHF aim for 1.5L negative on CVVHD
   - would ideally try nitro gtt for cp, though he presently is requiring
   a small amount of vasopressors for BP support for ultrafiltration, and
   nitro gtt can lower bp further. as such, will try morphine for ain
   control.
   - will increase statin, lfts added on
   - f/u echo
   # Acute on Chronic Systolic CHF
   - ultrafiltration via CVVH
   - holding lisinopril for now given hypotension; can try to add back
   captopril in morning for afterload reduction
   # Hypotension: likely cardiogenic in nature
   - norepinephrine for map >55-60 as needed for fluid
   # Hyperkalemia:
   - CVVH against K bath of 0 to bring K down; once K reaches <6 will
   change to K bath of 2.
   - cont calcium
   # Diabetes
   - reduce glargine in half to 13 given NPO status last night
   -with added diet may require extra insulin
   #Abd pain: nonspecific,? bowel edema, LFTS wnl
   -monitor lactate later to monitor for ischemic bowel
   # ESRD on HD: history of renal transplant
   - cont prednisone 5mg daily
   - cvvh in icu for now; appreciate renal following
   # h/o Stroke
   - warfarin on hold given potential for cardiac intervention; will
   bridge with heparin.
   # Recurrent UTIs
   - no current symptoms or signs; defer w/u to outpatient
   # h/o UGIB
   - no recent bleeding; will carefully titrate heparin, watch for plavix
   effect. continue PPIs.
   # Back Pain: presently inactive
   # Gout: allopurinol 100mg PO daily
   # FEN: NPO / CVVH / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2139-8-24**] 07:44 PM
   Dialysis Catheter - [**2139-8-24**] 09:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-08-25 10:46:00 Physician Attending Progress Note
Chief Complaint:
   Chest pain, now [**1-6**]
   HPI:
   24 Hour Events:
    - started CVVH overnight
    - SBP < 90, started levo to maintain MAP > 55
    - CP to [**1-6**]
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2139-8-25**] 03:56 AM
   Dextrose 50% - [**2139-8-25**] 06:03 AM
   Pantoprazole (Protonix) - [**2139-8-25**] 08:00 AM
   Other medications:
   plavix 300 x1
   plavix 75 qd
   nephrocaps
   asa
   pred
   allopurinol
   RISS
   Lantus
   protonix 40
   PCN VK
   colace
   heparin gtt
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-25**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.2
C (95.4
   HR: 81 (74 - 98) bpm
   BP: 93/57(64) {87/38(49) - 120/74(83)} mmHg
   RR: 13 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 73 kg
   CVP: 6 (4 - 19)mmHg
   Total In:
                                                                    658 mL
                                                                  2,991 mL
   PO:
   TF:
   IVF:
                                                                    633 mL
                                                                  2,966 mL
   Blood products:
   Total out:
                                                                    515 mL
                                                                  2,930 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    143 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.6 g/dL
   338 K/uL
   98 mg/dL
   3.7 mg/dL
   26 mEq/L
   5.2 mEq/L
   41 mg/dL
   92 mEq/L
   133 mEq/L
   40.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2139-8-24**]  07:15 PM
                             [**2139-8-24**]  10:43 PM
                             [**2139-8-25**]  01:58 AM
                             [**2139-8-25**]  03:38 AM
                             [**2139-8-25**]  08:02 AM
   WBC
   9.3
   7.5
   Hct
   40.8
   40.0
   Plt
   326
   338
   Cr
   5.9
   4.8
   4.3
   3.7
   TropT
   0.77
   0.77
   Glucose
   41
   96
   84
   98
   Other labs: PT / PTT / INR:23.4/110.9/2.2, CK / CKMB /
   Troponin-T:48//0.77, ALT / AST:35/37, Alk Phos / T Bili:200/0.3,
   Differential-Neuts:63.4 %, Lymph:27.3 %, Mono:7.3 %, Eos:1.6 %, Lactic
   Acid:1.4 mmol/L, Ca++:9.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   CTA: pleural effusions, no infiltrate
   Assessment and Plan
   53 yo M with CAD, ESRD on HD, here with cp, heart failure, [**Year (4 digits) 1054**]
   1. Chest pain: likely exacerbation CHF v ACS, will  most likely require
   medical management
    - HD to remove fluid, aim -1L
    - cont heparin gtt
    - f/u TTE
    - f/u cardiology recs
    - morphine for pain control
    - not candidate for bb, acei at the moment
    - statin, asa
   2. ESRD: HD as tolerated
   3. HyperK: improving
    - f/u lytes p HD
   4. DM2:
    - cont lantus, 1/2 dose while NPO
   5. Abd Pain:
    - f/u lactate
    - serial abd exams
   6. s/p cva
    - cont heparin, transition to coumadin when stable
   7. recurrent UTIL: not currently
   8. Prior UGI: cont monitor
   9. Gout: allopurinol
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2139-8-24**] 07:44 PM
   Dialysis Catheter - [**2139-8-24**] 09:16 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: mouth care, HOB > 30 degrees
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE STAFF ADDENDUM
   I saw and examined Mr. [**Known lastname 10403**] with Dr. [**Last Name (STitle) 5651**] and the ICU team,
   whose notes reflect my input.  Since admission, CVVHD begun without
   incident.  Continues to require norepinephrine at 0.03.  Seen by
   cardiology.  On exam, he now has 2/10 chest pain.  He is alert and
   interactive.  Abdomen is soft and nontender, though he has some
   discomfort.  Amputations.  EKG, labs, meds, and imaging reviewed.
   Assessment and Plan
   53-year-old man with probable acute coronary syndrome, congestive heart
   failure, ESRD on HD, and [**Last Name (STitle) 1054**].  We will continue to discuss his case
   with cardiology, continue heparin, continue ASA, continue statin, and
   check echo.  For [**Last Name (LF) 1054**], [**First Name3 (LF) 178**] continue levophed; hopefully decrease in
   volume and improvement in electrolytes will augment forward flow. There
   is no evidence for infection at the present time. Will consider stress
   dose steroids if not improved later today. For end-stage renal disease,
   he is on CVVHD; potassium is improving.
   He is critically ill: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2139-8-25**] 14:38 ------

2139-08-26 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Patient initially weaned off of pressors (levophed) and blood pressure
   was able to tolerate for a while, but then following administration of
   morphine (for chest pain), blood pressure decreased and pressor was
   restarted. Throughout the rest of the night, a balance between chest
   pain relief with morphine and giving pressors to keep the blood
   pressure appropriate, was worked upon.
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-8-25**] 08:00 AM
   Morphine Sulfate - [**2139-8-26**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-26**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 88 (80 - 100) bpm
   BP: 120/69(82) {81/14(37) - 121/85(82)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.1 kg (admission): 73 kg
    CVP: 129 (0 - 129)mmHg
   Total In:
                                                                  5,821 mL
                                                                  1,920 mL
   PO:
                                                                    820 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  4,976 mL
                                                                  1,860 mL
   Blood products:
   Total out:
                                                                  6,847 mL
                                                                  1,762 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,026 mL
                                                                    158 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   334 K/uL
   12.0 g/dL
   157 mg/dL
   2.4 mg/dL
   28 mEq/L
   4.5 mEq/L
   20 mg/dL
   92 mEq/L
   134 mEq/L
   39.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2139-8-24**]  07:15 PM
                             [**2139-8-24**]  10:43 PM
                             [**2139-8-25**]  01:58 AM
                             [**2139-8-25**]  03:38 AM
                             [**2139-8-25**]  08:02 AM
                             [**2139-8-25**]  11:49 AM
                             [**2139-8-25**]  05:01 PM
                             [**2139-8-25**]  09:42 PM
                             [**2139-8-26**]  01:42 AM
                             [**2139-8-26**]  05:37 AM
   WBC
   9.3
   7.5
   7.6
   Hct
   40.8
   40.0
   39.4
   Plt
   326
   338
   334
   Cr
   5.9
   4.8
   4.3
   3.7
   3.0
   2.4
   TropT
   0.77
   0.77
   Glucose
   41
   96
   84
   98
   65
   222
   198
   136
   157
   Other labs: PT / PTT / INR:20.3/34.0/1.9, CK / CKMB /
   Troponin-T:48//0.77, ALT / AST:35/37, Alk Phos / T Bili:200/0.3,
   Differential-Neuts:63.4 %, Lymph:27.3 %, Mono:7.3 %, Eos:1.6 %, Lactic
   Acid:1.2 mmol/L, Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   53 yo gentleman with CAD s/p CABG, post infarction cardiomyopathy (EF
   20-25%), moderate to severe MR, DM1, PVD s/p B LE amputations, ESRD s/p
   renal Xplant x 2 now on HD with chest pain, and acute on chronic
   systolic heart failure.
   .
   # Chest Pain/CAD: Patient has known CAD with CABG and PCI in past.
   History sounds like unstable angina, however cardiac enzymes have been
   flat (x3), without EKG changes. Initially treated with ASA, plavix,
   heparin gtt. This has been stopped given low suspicion for ACS.
   -continue ASA, statin
   -question d/c plavix?
   -consider nitro and morphine for CP as BP tolerates
   .
   # Acute on Chronic Systolic CHF: Patient has known global hypokinesis
   with EF 15%. Unclear what the precipitant of acute exacerbation was.
   Not believed to be ischemic etiology.
   - ultrafiltration via CVVH
   - holding lisinopril for now given hypotension; if BP tolerates, can
   try to add back captopril in morning for afterload reduction
   .
   # Hypotension:  central venous 02 sat of 60% does not help confirm or
   refute cardiogenic shock.  Was initially weaned off of Levophed, but
   then restarted as BP decreased (in setting of having received morphine
   for CP). Patient is on chronic prednisone given renal transplants in
   the past, and is more susceptible to infection (although afebrile and
   without leukocytosis). This could potentially be the cause of CHF
   exacerbation and hypotension.
   -follow-up blood cultures, UA, urine culture
   -wean Levophed as appropriate and tolerated
   .
   # Hyperkalemia: K 7.4 on admission. Currently 4.5
   - CVVH against K bath of 2 to bring K down
   - f/u renal recs
   .
   # Diabetes: continue glargine, SSI, qid fingersticks. Diabetic diet.
   .
   # ESRD on HD:
   - CVVH in ICU for now; appreciate renal recs
   .
   # h/o Stroke: On coumadin as an outpatient. INR was initially
   subtherapeutic, and patient was on heparin gtt. INR currently 2.2.
   -Heparin gtt stopped.
   -restart coumadin
   .
   # Recurrent UTIs
   - no current symptoms or signs
   - obtain UA, Urine culture given hypotension
   .
   # h/o UGIB: No recent bleeding; will carefully monitor HCT given ASA,
   recent heparin, and plavix.
   - continue PPI.
   -active T&S
   .
   # Back Pain: slight soreness reported; heating pad prn
   .
   # Gout: allopurinol 100mg PO daily
   .
   # FEN: Cardiac, diabetic, renal diet / CVVH / replete lytes PRN (Mg
   repleted this AM)
   # PPX: PPI, heparin SQ, bowel regimen, physical therapy consult
   # ACCESS:
   Multi Lumen - [**2139-8-24**] 07:44 PM
   Dialysis Catheter - [**2139-8-24**] 09:16 PM
   # CODE: Full
   # CONTACT: Wife
   # DISPO: CCU
   .

2139-08-26 10:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Chest
   pressure.
   24 Hour Events:
   Patient initially weaned off of pressors (levophed) and blood pressure
   was able to tolerate for a while, but then following administration of
   morphine (for chest pain), blood pressure decreased and pressor was
   restarted. Throughout the rest of the night, a balance between chest
   pain relief with morphine and giving pressors to keep the blood
   pressure appropriate, was worked upon.
   Patient continues to complain of chest pressure, relieved by morphine.
   Patient still with labored breathing complaint.
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-8-25**] 08:00 AM
   Morphine Sulfate - [**2139-8-26**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-26**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 88 (80 - 100) bpm
   BP: 120/69(82) {81/14(37) - 121/85(82)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.1 kg (admission): 73 kg
    CVP:
   Total In:
                                                                  5,821 mL
                                                                  1,920 mL
   PO:
                                                                    820 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  4,976 mL
                                                                  1,860 mL
   Blood products:
   Total out:
                                                                  6,847 mL
                                                                  1,762 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,026 mL
                                                                    158 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///28/
   Physical Examination
   Gen: NAD, elderly male resting in bed, cooperative, with sense of
   humor, covered with heating blanket
   CV: RRR, III/VI systolic ejection murmur loudest at LUSB
   PULM: CTAB, only anterior auscultation possible due to position
   EXTR: BKA and AKA, exam limited
   NEURO: alert & oriented
   Labs / Radiology
   334 K/uL
   12.0 g/dL
   157 mg/dL
   2.4 mg/dL
   28 mEq/L
   4.5 mEq/L
   20 mg/dL
   92 mEq/L
   134 mEq/L
   39.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2139-8-24**]  07:15 PM
                             [**2139-8-24**]  10:43 PM
                             [**2139-8-25**]  01:58 AM
                             [**2139-8-25**]  03:38 AM
                             [**2139-8-25**]  08:02 AM
                             [**2139-8-25**]  11:49 AM
                             [**2139-8-25**]  05:01 PM
                             [**2139-8-25**]  09:42 PM
                             [**2139-8-26**]  01:42 AM
                             [**2139-8-26**]  05:37 AM
   WBC
   9.3
   7.5
   7.6
   Hct
   40.8
   40.0
   39.4
   Plt
   326
   338
   334
   Cr
   5.9
   4.8
   4.3
   3.7
   3.0
   2.4
   TropT
   0.77
   0.77
   Glucose
   41
   96
   84
   98
   65
   222
   198
   136
   157
   Other labs: PT / PTT / INR:20.3/34.0/1.9, CK / CKMB /
   Troponin-T:48//0.77, ALT / AST:35/37, Alk Phos / T Bili:200/0.3,
   Differential-Neuts:63.4 %, Lymph:27.3 %, Mono:7.3 %, Eos:1.6 %, Lactic
   Acid:1.2 mmol/L, Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   53 yo gentleman with CAD s/p CABG, post infarction cardiomyopathy (EF
   20-25%), moderate to severe MR, DM1, PVD s/p B LE amputations, ESRD s/p
   renal Xplant x 2 now on HD with chest pain, and acute on chronic
   systolic heart failure.
   .
   # Chest Pain/CAD: Patient has known CAD with CABG and PCI in past.
   History sounds like unstable angina, however cardiac enzymes have been
   flat (x3), without EKG changes. Initially treated with ASA, plavix,
   heparin gtt. The heparin gtt has been stopped given low suspicion for
   ACS.  Consider cath given continued chest pain.
   -continue ASA, statin
   -consider cath
   -Continue plavix
   -Continue nitro and morphine 0.5mgPRN (trying lower morphine dose if
   possible) for CP as BP tolerates
   .
   # Acute on Chronic Systolic CHF: Patient has known global hypokinesis
   with EF 15%. Unclear what the precipitant of acute exacerbation was.
   Not believed to be ischemic etiology.
   - ultrafiltration via CVVH
   - holding lisinopril for now given hypotension; if BP tolerates, can
   try to add back captopril for afterload reduction
   - Wean Levophed as tolerated
   .
   # Hypotension:  central venous 02 sat of 60% does not help confirm or
   refute cardiogenic shock.  Was initially weaned off of Levophed, but
   then restarted as BP decreased (in setting of having received morphine
   for CP). Patient is on chronic prednisone given renal transplants in
   the past, and is more susceptible to infection (although afebrile and
   without leukocytosis). This could potentially be the cause of CHF
   exacerbation and hypotension.
   -follow-up blood cultures, UA, urine culture
   -Wean Levophed as tolerated
   .
   # Hyperkalemia: K 7.4 on admission. Currently 4.5. Unclear etiology
   (per patient and wife, has been going to dialysis three times a week
   regularly).
   - CVVH against K bath of 2 to bring K down
   - f/u renal recs
   .
   # Diabetes: continue glargine, SSI, qid fingersticks. Diabetic diet.
   .
   # ESRD on HD:
   - CVVH in ICU for now; appreciate renal recs
   - Consider d/c Prednisone (why on this medicine? Transplant-related?)
   .
   # h/o Stroke: On coumadin as an outpatient. INR was initially
   subtherapeutic, and patient was on heparin gtt. INR currently 2.2.
   -Heparin gtt stopped.
   -Hold Coumadin, as potential for going to cath
   .
   # Recurrent UTIs
   - no current symptoms or signs
   - obtain UA, Urine culture given hypotension
   .
   # h/o UGIB: No recent bleeding; will carefully monitor HCT given ASA,
   recent heparin, and plavix.
   -continue PPI.
   -active T&S
   .
   # Back Pain: slight soreness reported; heating pad prn
   .
   # Gout: allopurinol 100mg PO daily
   .
   # FEN: Cardiac, diabetic, renal diet / CVVH / replete lytes PRN (Mg
   repleted this AM)
   # PPX: PPI, heparin SQ, bowel regimen, physical therapy consult
   # ACCESS:
   Multi Lumen - [**2139-8-24**] 07:44 PM
   Dialysis Catheter - [**2139-8-24**] 09:16 PM
   # CODE: Full
   # CONTACT: Wife
   # DISPO: CCU
   .
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   critically ill due to acute on chronic systolic and diastolic heart
   failure, renal failure, unstable angina, cardiogenic shock.
   Date of visit 9/30/9 at 11am.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2139-8-27**] 17:47 ------

2139-08-27 06:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Chest Pain
   24 Hour Events: pt continues to c/o intermittent CP overnight, same
   character as previous episodes.  Denies any CP currently.  Also
   endorses SOB with his episodes of CP.
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Morphine Sulfate - [**2139-8-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-27**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.3
   HR: 94 (85 - 108) bpm
   BP: 93/62(69) {85/40(58) - 122/72(84)} mmHg
   RR: 14 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.6 kg (admission): 73 kg
             Total In:
                                                                  7,202 mL
                                                                  2,039 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  6,602 mL
                                                                  2,039 mL
   Blood products:
   Total out:
                                                                  8,303 mL
                                                                  2,313 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,101 mL
                                                                   -274 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   Gen: NAD, elderly male resting in bed, cooperative, covered with
   heating blanket
   CV: RRR, III/VI systolic ejection murmur loudest at LUSB
   PULM: CTAB anteriorly
   EXTR: BKA and AKA, WWP,
   NEURO: alert & oriented
   Labs / Radiology
   215 K/uL
   12.2 g/dL
   138 mg/dL
   1.7 mg/dL
   31 mEq/L
   4.2 mEq/L
   13 mg/dL
   94 mEq/L
   137 mEq/L
   38.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2139-8-25**]  08:02 AM
                             [**2139-8-25**]  11:49 AM
                             [**2139-8-25**]  05:01 PM
                             [**2139-8-25**]  09:42 PM
                             [**2139-8-26**]  01:42 AM
                             [**2139-8-26**]  05:37 AM
                             [**2139-8-26**]  11:37 AM
                             [**2139-8-26**]  06:10 PM
                             [**2139-8-26**]  11:34 PM
                             [**2139-8-27**]  05:26 AM
   WBC
   7.6
   7.5
   6.0
   Hct
   39.4
   40.6
   38.8
   Plt
   [**Telephone/Fax (3) 10440**]
   Cr
   3.7
   3.0
   2.4
   2.2
   2.1
   1.8
   1.7
   Glucose
   98
   65
   222
   198
   136
   157
   [**Telephone/Fax (2) 10441**]38
   Other labs: PT / PTT / INR:17.4/33.5/1.6, CK / CKMB /
   Troponin-T:48//0.77, ALT / AST:35/37, Alk Phos / T Bili:200/0.3,
   Differential-Neuts:63.4 %, Lymph:27.3 %, Mono:7.3 %, Eos:1.6 %, Lactic
   Acid:1.2 mmol/L, Ca++:9.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Assessment and Plan
   53 yo gentleman with CAD s/p CABG, post infarction cardiomyopathy (EF
   20-25%), moderate to severe MR, DM1, PVD s/p B LE amputations, ESRD s/p
   renal Xplant x 2 now on HD with chest pain, and acute on chronic
   systolic heart failure.
   .
   # Chest Pain/CAD: Patient has known CAD with CABG and PCI in past.
   History sounds like unstable angina, however cardiac enzymes have been
   flat (x3), without EKG changes. Initially treated with ASA, plavix,
   heparin gtt. The heparin gtt has been stopped given low suspicion for
   ACS.
   - cath (right and left) today given continued chest pain
   -continue ASA, statin, plavix
   -Continue nitro and morphine 0.5mgPRN (trying lower morphine dose if
   possible so as to decrease hypotensive episodes) for CP as BP tolerates
   .
   # Acute on Chronic Systolic CHF: Patient has known global hypokinesis
   with EF 15%. Unclear what the precipitant of acute exacerbation was.
   Not believed to be ischemic etiology.  Weaned off levophed O/N.
   - ultrafiltration via CVVH, will continue for 24 hrs per renal recs
   - holding lisinopril for now given hypotension; if BP tolerates, can
   try to add back captopril for afterload reduction
   .
   # Hypotension:  central venous 02 sat of 60% does not help confirm or
   refute cardiogenic shockPatient is on chronic prednisone given renal
   transplants in the past, and is more susceptible to infection (although
   afebrile and without leukocytosis). This could potentially be the cause
   of CHF exacerbation and hypotension.
   -follow-up blood cultures, UA, urine culture
   .
   # Hyperkalemia: K 7.4 on admission. Currently 4.5. Unclear etiology
   (per patient and wife, has been going to dialysis three times a week
   regularly).
   - CVVH against K bath of 2 to bring K down
   - f/u renal recs
   .
   # Diabetes: continue glargine, SSI, qid fingersticks. Diabetic diet.
   .
   # ESRD on HD:
   - CVVH in ICU for now x one more day; appreciate renal recs
   - Will d/c calcium acetate given hypophos
   - Consider d/c Prednisone (why on this medicine? Transplant-related?)
   .
   # h/o Stroke (suspected cardioembolic): On coumadin as an outpatient.
   INR was initially subtherapeutic, and patient was on heparin gtt. INR
   currently 2.2. Heparin gtt stopped.
   -Hold Coumadin, as patient going to cath today
   .
   # Recurrent UTIs: does not appear infected clinically.  Most likely he
   is chronically colonized.  Will hold on abx tx for now, consider
   starting if pt symptomatic.
   .
   # h/o UGIB: No recent bleeding; will carefully monitor HCT given ASA,
   recent heparin, and plavix.
   -continue PPI.
   -active T&S
   .
   # Back Pain: slight soreness reported; heating pad prn
   .
   # Gout: allopurinol 100mg PO daily
   ICU Care
   Nutrition: Cardiac, diabetic, renal diet / CVVH / replete lytes PRN (Mg
   repleted this AM)
   Glycemic Control:
   Lines:
   Multi Lumen - [**2139-8-24**] 07:44 PM
   Dialysis Catheter - [**2139-8-24**] 09:16 PM
   Prophylaxis:
   DVT: holding anticoagulation for now for cath
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 66**] status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   critically ill due to acute on chronic systolic and diastolic heart
   failure, renal failure, unstable angina, cardiogenic shock.
   Date of visit 10/1/9 at 11am.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2139-8-27**] 17:48 ------

2139-08-28 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Work of
   breathing
   24 Hour Events:
 CARDIAC CATH - At [**2139-8-27**] 02:00 PM
   Right & Left heart cath:
   3 patent grafts: LIMA-LAD, SVG-diagonal, SVG-PDA
   Diffuse disease in native vessels (diffuse 3-vessel coronary disease)
   Low cardiac index.
   Dopamine started; then came off of pressors.
   DES to LIMA tight lesion.
   Tachycardia to 130s as patient went into afib s/p cath, given
   metoprolol and then heart rate to 90s and low 100s; now in sinus
   rhythm.
   Decreased SpO2 (80s when on room air).
   Patient continues to have labored breathing, but with slight
   improvement.
   No current chest pain, just some mild burning in the chest.
   Groin sore (left).
   Constipated; no abdominal pain.
   Renal recs: OK to hold on CVVHD immediately following catheterization.
   SPEP normal.
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2139-8-27**] 05:10 PM
   Morphine Sulfate - [**2139-8-28**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-28**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98.1
   HR: 94 (94 - 140) bpm
   BP: 85/45(54) {67/33(48) - 106/65(71)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.4 kg (admission): 73 kg
   Height: 60 Inch
    CVP: 15 (10 - 19)mmHg
   Total In:
                                                                  3,937 mL
                                                                     95 mL
   PO:
                                                                    120 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  3,817 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  4,736 mL
                                                                      0 mL
   Urine:
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -799 mL
                                                                     95 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.47/39/127/35/5
   Physical Examination
   GEN: cooperative, alert, oriented, conversational
   CV: Systolic murmur, greatest at apex, radiates throughout precordium
   PULM: CTAB anteriorly
   ABD: +BS, soft, NT, ND
   EXTR: left groin w/TTP, no bruits, no bleeding/oozing, no bruising, no
   edema
   Labs / Radiology
   200 K/uL
   10.9 g/dL
   156 mg/dL
   2.5 mg/dL
   35 mEq/L
   4.1 mEq/L
   18 mg/dL
   94 mEq/L
   137 mEq/L
   35.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2139-8-25**]  09:42 PM
                             [**2139-8-26**]  01:42 AM
                             [**2139-8-26**]  05:37 AM
                             [**2139-8-26**]  11:37 AM
                             [**2139-8-26**]  06:10 PM
                             [**2139-8-26**]  11:34 PM
                             [**2139-8-27**]  05:26 AM
                             [**2139-8-27**]  04:06 PM
                             [**2139-8-27**]  11:33 PM
                             [**2139-8-28**]  05:11 AM
   WBC
   7.6
   7.5
   6.0
   6.6
   Hct
   39.4
   40.6
   38.8
   35.2
   Plt
   [**Telephone/Fax (3) 10452**]11
   200
   Cr
   2.4
   2.2
   2.1
   1.8
   1.7
   2.5
   TCO2
   29
   Glucose
   198
   136
   157
   [**Telephone/Fax (3) **]
   138
   156
   Other labs: PT / PTT / INR:15.2/40.6/1.3, CK / CKMB /
   Troponin-T:40//0.77, ALT / AST:35/37, Alk Phos / T Bili:200/0.3,
   Differential-Neuts:63.4 %, Lymph:27.3 %, Mono:7.3 %, Eos:1.6 %, Lactic
   Acid:1.2 mmol/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   53 yo gentleman with CAD s/p CABG, post infarction cardiomyopathy (EF
   20-25%), moderate to severe MR, DM1, PVD s/p B LE amputations, ESRD s/p
   renal Xplant x 2 now on HD with chest pain, and acute on chronic
   systolic heart failure. S/p cardiac left and right catheterization
   yesterday.
   .
   # Chest Pain/CAD: Patient has known CAD with CABG and PCI in past.
   History sounds like unstable angina, however cardiac enzymes have been
   flat (x3), without EKG changes. Initially treated with ASA, plavix,
   heparin gtt. The heparin gtt has been stopped given low suspicion for
   ACS.
   - s/p cath yesterday ([**8-27**])
   - continue ASA, statin, plavix
   - Continue nitro and morphine 0.5mgPRN (trying lower morphine dose if
   possible so as to decrease hypotensive episodes) for CP as BP tolerates
   .
   # Decreased O2 sats:
   - believed to be due to fluid overload from CHF; perhaps worse last
   night as given fluid at cath and then without CVVHD the rest of
   yesterday/today
   - diuresis; f/u with renal re: plans
   .
   # Acute on Chronic Systolic CHF: Patient has known global hypokinesis
   with EF 15%. Unclear what the precipitant of acute exacerbation was.
   Not believed to be ischemic etiology.
   - ultrafiltration via CVVH, put on hold s/p cath; hope to resume, check
   with renal
   - no HD today, per renal
   - holding lisinopril for now given hypotension; if BP tolerates, can
   try to add back captopril for afterload reduction
   .
   # Hypotension: Concern for cardiac cause given low EF d/t
   cardiomyopathy.
   - f/u blood and urine cultures in case sepsis as component of
   hypotension (although afebrile and without leukocytosis)
   - was previously on levophed and then dopamine, but no longer on
   pressors
   .
   # Hyperkalemia: K 7.4 on admission. Currently 4.1. Unclear etiology
   (per patient and wife, has been going to dialysis three times a week
   regularly). Resolved.
   - f/u renal recs
   - monitor electrolytes
   .
   # Diabetes: continue glargine, SSI, qid fingersticks. Diabetic diet.
   .
   # ESRD on HD:
   - appreciate renal recs
   - Calcium acetate d/c
d given hypophos
   .
   # h/o Stroke (suspected cardioembolic): On coumadin as an outpatient.
   INR was initially subtherapeutic, and patient was on heparin gtt. INR
   currently 1.3. Given patient in & out of afib on [**8-27**]; have goal INR
   [**12-30**], restart patient on home coumadin dose and start heparin drip until
   INR therapeutic.
   - coumadin at 5mg po daily
   - heparin gtt
   .
   # Recurrent UTIs: does not appear infected clinically.  Most likely he
   is chronically colonized.  Will hold on abx tx for now, consider
   starting if pt symptomatic.
   .
   # h/o UGIB: No recent bleeding; will carefully monitor HCT given ASA,
   recent heparin, and plavix.
   -continue PPI
   -active T&S
   .
   # Groin pain, back pack: uptitrate pain regimen
   .
   # Gout: allopurinol 100mg PO daily
   ICU Care
   Nutrition: Cardiac, diabetic, renal diet / CVVH / replete lytes PRN
   Glycemic Control:  glargine, SSI
   Lines:
   Multi Lumen - [**2139-8-24**] 07:44 PM
   Dialysis Catheter - [**2139-8-24**] 09:16 PM
   Prophylaxis:
   DVT: coumadin, heparin gtt
   Stress ulcer: PPI
   VAP:  not intubated
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 66**] status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Addendum:
   Goal: 1 liter dialyzed off today
   Constipation; Add senna [**Hospital1 **]
   Add: metoprolol for afib rate control 12.5mg po bid with hold
   parameters.
   ------ Protected Section Addendum Entered By:[**Name (NI) 9867**] [**Last Name (NamePattern1) 10454**], MD
   on:[**2139-8-28**] 15:53 ------

2139-08-29 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Dyspnea/orthopnea overnight with transient hypoxia and placed on 9L O2,
   titrated down to RA subsequently with PO2 in mid-high 90
   .
   CVVH this morning with ~1L fluid removed.
   .
   Denies chest pain, but complaining of abdominal pain and constipation
   for several days.
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2139-8-28**] 09:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-29**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 96 (93 - 103) bpm
   BP: 88/53(61) {80/11(24) - 117/96(84)} mmHg
   RR: 17 (7 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.2 kg (admission): 73 kg
   Height: 60 Inch
    CVP: 12 (11 - 19)mmHg
   Total In:
                                                                  1,327 mL
                                                                    509 mL
   PO:
                                                                    380 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    947 mL
                                                                    460 mL
   Blood products:
   Total out:
                                                                  2,368 mL
                                                                  1,549 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,041 mL
                                                                 -1,039 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   GEN: Alert, interactive, NAD
   CV: Systolic murmur, greatest at apex, radiates throughout precordium
   PULM: CTAB anteriorly
   ABD: +BS, soft, diffusely tender, ND
   EXTR: b/l AKA
   Labs / Radiology
   235 K/uL
   11.2 g/dL
   97 mg/dL
   2.1 mg/dL
   29 mEq/L
   4.4 mEq/L
   18 mg/dL
   97 mEq/L
   134 mEq/L
   35.7 %
   6.6 K/uL
        [image002.jpg]
                             [**2139-8-26**]  06:10 PM
                             [**2139-8-26**]  11:34 PM
                             [**2139-8-27**]  05:26 AM
                             [**2139-8-27**]  11:03 AM
                             [**2139-8-27**]  04:06 PM
                             [**2139-8-27**]  11:33 PM
                             [**2139-8-28**]  05:11 AM
                             [**2139-8-28**]  09:38 PM
                             [**2139-8-28**]  10:07 PM
                             [**2139-8-29**]  04:14 AM
   WBC
   7.5
   6.0
   6.6
   6.7
   6.6
   Hct
   40.6
   38.8
   35.2
   34.4
   35.7
   Plt
   [**Telephone/Fax (3) 10462**]00
   213
   235
   Cr
   2.1
   1.8
   1.7
   2.5
   2.4
   2.1
   TCO2
   29
   Glucose
   371
   239
   138
   243
   156
   299
   97
   Other labs: PT / PTT / INR:15.4/150.0/1.3, CK / CKMB /
   Troponin-T:40//0.77, ALT / AST:35/37, Alk Phos / T Bili:200/0.3,
   Differential-Neuts:66.9 %, Lymph:22.3 %, Mono:6.7 %, Eos:3.4 %, Lactic
   Acid:1.2 mmol/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Microbiology: [**8-25**], [**8-26**] BCx pending
   [**8-27**] UCx pending
   Assessment and Plan
   53 yo gentleman with CAD s/p CABG, post infarction cardiomyopathy (EF
   20-25%), moderate to severe MR, DM1, PVD s/p B LE amputations, ESRD s/p
   renal Xplant x 2 now on HD with chest pain, and acute on chronic
   systolic heart failure. S/p cardiac left and right catheterization
   yesterday.
   .
   # Chest Pain/CAD: Patient has known CAD with CABG and PCI in past.
   History sounds like unstable angina, however cardiac enzymes have been
   flat (x3), without EKG changes. Initially treated with ASA, plavix,
   heparin gtt. The heparin gtt has been stopped given low suspicion for
   ACS.   s/p cardiac cath [**8-27**] with stent to LIMA-LAD graft now chest
   pain free.
   - Continue ASA, statin, plavix
   - Initiate low dose Captopril and titrate up as tolerated
   - Continue nitro and morphine 0.5mg PRN (trying lower morphine dose if
   possible so as to decrease hypotensive episodes) for CP as BP tolerates
   .
   # Decreased O2 sats:  Believed to be due to fluid overload from CHF;
   perhaps worse last night as given fluid at cath and then without CVVHD
   over the last two days, currently mid-high 90
s on RA.  CVVDH yesterday
   with 1L removed, currently receiving CVVHD with 1L fluid to be removed
   today.
   - Diuresis; f/u with renal re: plans
   .
   # Acute on Chronic Systolic CHF: Patient has known global hypokinesis
   with EF 15%. Unclear what the precipitant of acute exacerbation was.
   Not believed to be ischemic etiology.
   - Ultrafiltration via CVVH initially on hold s/p cath, ~1L removed
   yesterday; f/u with renal plans for CVVH
   - Initiating Captopril today for afterload reduction; holding
   lisinopril for now
   .
   # Hypotension: Concern for cardiac cause given low EF d/t
   cardiomyopathy.  Tolerating MAP ~50.
   - f/u blood and urine cultures in case sepsis as component of
   hypotension (although afebrile and without leukocytosis, cultures
   negative to date)
   - Previously on levophed and then dopamine, intermittently on pressors,
   now off pressors for several days
   .
   # Hyperkalemia: K 7.4 on admission. Currently 4.1. Unclear etiology
   (per patient and wife, has been going to dialysis three times a week
   regularly). Resolved.
   .
   # Diabetes: Continue glargine, SSI, qid fingersticks. Diabetic diet.
   .
   # ESRD on HD:  CVVH yesterday with ~1L fluid removal.
   - Appreciate renal recs
   - Calcium acetate d/c
d given hypophos
   .
   # h/o Stroke (suspected cardioembolic): On coumadin as an outpatient.
   INR was initially subtherapeutic, and patient was on heparin gtt. INR
   currently 1.3. Given patient in & out of afib on [**8-27**]; have goal INR
   [**12-30**], restart patient on home Coumadin dose and start heparin drip until
   INR therapeutic.
   - Continue Coumadin at 5mg po daily
   - Continue heparin gtt until INR therapeutic
   .
   # Recurrent UTIs: Does not appear infected clinically.  Most likely he
   is chronically colonized.  Will hold on abx tx for now, consider
   starting if pt symptomatic.
   .
   # h/o UGIB: No recent bleeding; will carefully monitor HCT given ASA,
   recent heparin, and plavix.
   -continue PPI
   -active T&S (expires [**8-30**])
   .
   # Groin pain, back pack: uptitrate home Oxycodone as needed.
   .
   # Gout: allopurinol 100mg PO daily
   ICU Care
   Nutrition: Cardiac, diabetic, renal diet / CVVH / replete lytes PRN
   Glycemic Control:  glargine, SSI
   Lines:
   Multi Lumen - [**2139-8-24**] 07:44 PM
   Dialysis Catheter - [**2139-8-24**] 09:16 PM
   Prophylaxis:
   DVT: coumadin, heparin gtt
   Stress ulcer: PPI
   VAP:  not intubated
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 66**] status: Full code
   Disposition: CCU, consult SW Monday for dispo plan, possibly to
   outpatient rehab

2139-08-30 08:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No acute events overnight.
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Penicillin G potassium - [**2139-8-30**] 05:09 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-8-29**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-30**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.5
C (97.7
   HR: 100 (95 - 110) bpm
   BP: 91/57(66) {68/18(39) - 121/77(88)} mmHg
   RR: 21 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67.5 kg (admission): 73 kg
   Height: 60 Inch
    CVP: 16 (11 - 16)mmHg
   Total In:
                                                                  2,600 mL
                                                                    651 mL
   PO:
                                                                    660 mL
   TF:
   IVF:
                                                                  1,940 mL
                                                                    651 mL
   Blood products:
   Total out:
                                                                  4,343 mL
                                                                  2,130 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,743 mL
                                                                 -1,479 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   GEN: Alert, interactive, NAD
   CV: RRR, GI systolic murmer at apex
   PULM: CTAB anteriorly
   ABD: +BS, soft, NT/ND
   EXTR: b/l AKA
   Labs / Radiology
   225 K/uL
   10.8 g/dL
   159 mg/dL
   1.7 mg/dL
   27 mEq/L
   4.5 mEq/L
   17 mg/dL
   98 mEq/L
   134 mEq/L
   34.6 %
   7.7 K/uL
        [image002.jpg]
                             [**2139-8-27**]  04:06 PM
                             [**2139-8-27**]  11:33 PM
                             [**2139-8-28**]  05:11 AM
                             [**2139-8-28**]  09:38 PM
                             [**2139-8-28**]  10:07 PM
                             [**2139-8-29**]  04:14 AM
                             [**2139-8-29**]  08:08 AM
                             [**2139-8-29**]  02:42 PM
                             [**2139-8-29**]  09:38 PM
                             [**2139-8-30**]  04:00 AM
   WBC
   6.6
   6.7
   6.6
   7.7
   Hct
   35.2
   34.4
   35.7
   35.1
   34.6
   Plt
   [**Telephone/Fax (3) 10479**]35
   225
   Cr
   2.5
   2.4
   2.1
   1.8
   1.9
   1.7
   TCO2
   29
   Glucose
   156
   299
   97
   64
   164
   308
   159
   Other labs: PT / PTT / INR:15.2/52.3/1.3, CK / CKMB /
   Troponin-T:40//0.77, ALT / AST:35/37, Alk Phos / T Bili:200/0.3,
   Differential-Neuts:66.9 %, Lymph:22.3 %, Mono:6.7 %, Eos:3.4 %, Lactic
   Acid:1.2 mmol/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:1.7 mg/dL
   Fluid analysis / Other labs: ABG
   [**2139-8-30**]
   04:16a
   -----------------------------------------------------------------------
   ---------
   pH
   7.36 pCO2
   48 pO2
   33 HCO3
   28 BaseXS
   0
   Microbiology: [**2139-8-27**] 9:43 pm URINE      Source: CVS.
      URINE CULTURE (Preliminary):
         GRAM NEGATIVE ROD #1.    >100,000 ORGANISMS/ML..
         GRAM NEGATIVE ROD #2.    >100,000 ORGANISMS/ML..
   9/29 [**8-26**] BCx pending
   Assessment and Plan
   53 yo gentleman with CAD s/p CABG, post infarction cardiomyopathy (EF
   20-25%), moderate to severe MR, DM1, PVD s/p B LE amputations, ESRD s/p
   renal Xplant x 2 now on HD with chest pain, and acute on chronic
   systolic heart failure. S/p cardiac left and right catheterization
   yesterday.
   .
   # Chest Pain/CAD: Patient has known CAD with CABG and PCI in past.
   History sounds like unstable angina, however cardiac enzymes have been
   flat (x3), without EKG changes. Initially treated with ASA, plavix,
   heparin gtt. The heparin gtt has been stopped given low suspicion for
   ACS.   s/p cardiac cath [**8-27**] with stent to LIMA-LAD graft now chest
   pain free, has not needed nitro or low dose (0.5mg) morphine for chest
   pain.
   - Continue ASA, statin, plavix
   - Initiate Captopril 6.25mg daily and titrate up as tolerated; keep at
   current dose today as BP optimal currently
   .
   # Decreased O2 sats:  Believed to be due to fluid overload from CHF;
   perhaps worse last night as given fluid at cath and then without CVVHD
   over the last two days, currently mid-high 90
s on RA.  CVVDH yesterday
   with 1L removed, currently receiving CVVHD with 1.5L fluid removed so
   far today.
   - Diuresis via CVVH
   - f/u with renal re: plans, particularly re: timeline to initiate HD
   (perhaps Mon?)
   .
   # Acute on Chronic Systolic CHF: Patient has known global hypokinesis
   with EF 15%. Unclear what the precipitant of acute exacerbation was.
   Not believed to be ischemic etiology.
   - Ultrafiltration via CVVH; f/u with renal plans for CVVH
   - Continue Captopril at current dose for afterload reduction
   - Continue holding lisinopril for now
   .
   # Hypotension: Concern for cardiac cause given low EF d/t
   cardiomyopathy.  Tolerating MAP ~50.  Briefly on levophed and then
   dopamine, intermittently on pressors, now off pressors for several
   days.
   - f/u blood and urine cultures in case sepsis as component of
   hypotension (although afebrile and without leukocytosis, cultures
   negative to date)
   .
   # Hyperkalemia: K 7.4 on admission, now resolved.. Unclear etiology
   (per patient and wife, has been going to dialysis three times a week
   regularly).
   .
   # Diabetes: Continue glargine, SSI, qid fingersticks. Diabetic diet.
   .
   # ESRD on HD:  CVVH today with continued fluid removal, currently 1.5L
   this morning.  Calcium acetate d/c
d given hypophos.
   - Appreciate renal recs, particularly regarding re-initiation of HD
   .
   # h/o Stroke (suspected cardioembolic): On coumadin as an outpatient.
   INR was initially subtherapeutic, and patient was on heparin gtt. INR
   currently sub-therapeutic. Given patient in & out of afib on [**8-27**]; have
   goal INR [**12-30**], pt restarted on home dose with Heparin bridge until INR
   therapeutic.
   - Continue Coumadin at 5mg po daily
   - Continue heparin gtt until INR therapeutic
   .
   # Recurrent UTIs: Does not appear infected clinically.  Most likely he
   is chronically colonized.  Will hold on abx tx for now, consider
   starting if pt symptomatic.
   .
   # h/o UGIB: No recent bleeding; will carefully monitor HCT given ASA,
   recent heparin, and plavix.
   -continue PPI
   -active T&S (in for [**8-30**])
   .
   # Groin pain, back pack: uptitrate home Oxycodone as needed.
   .
   # Gout: Allopurinol 100mg PO daily
   .
   # Tooth abscess:  d/c Penicillin V, as presumed sufficient course.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2139-8-24**] 07:44 PM
   Dialysis Catheter - [**2139-8-24**] 09:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Attending Progress Note
   I have reviewed the daily progress note by Dr. [**First Name (STitle) **] today and I concur
   with the history, physical examination, assessment and treatment plan.
   I was present during the entire physical examination by the CCU team.
   Mr. [**Known lastname 10403**] is a 53 year old man with complicated diabetes mellitus
   resulting in advanced peripheral vascular disease and LE and digit
   amputations, end stage kidney disease requiring dialysis and dialysis,
   and coronary artery disease (s/p CABG and recent stenting of the
   LIMA-LAD native vessel disease.  He has a known cardiomyopathy (LVEF =
   20%).   He has not had additional chest pain since his stent procedure.
   An additional 1.5-2.0 L fluid will be removed over the next 24 hours.
   Captopril 6.25 mg and metopolol have been added and tolerated
   hemodynamically.
   We are currently proceeding with continue diuresis and he has tolerated
   afterload reduction with captopril along with his antiplatelet agents.
   We will also focus on rehabilitation once the CVVH has been completed
   and hemodialysis has been re-initiated.
   The treatment plan discussed with the patient and all questions
   addressed.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**] [**Pager number 10469**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2139-8-30**] 12:35 ------

2139-08-31 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Penicillin G potassium - [**2139-8-30**] 05:09 AM
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-8-30**] 08:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-8-31**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 98 (85 - 101) bpm
   BP: 86/48(58) {73/21(31) - 113/61(71)} mmHg
   RR: 16 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.5 kg (admission): 73 kg
   Height: 60 Inch
             Total In:
                                                                  2,810 mL
                                                                    823 mL
   PO:
                                                                    605 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,205 mL
                                                                    623 mL
   Blood products:
   Total out:
                                                                  5,617 mL
                                                                    796 mL
   Urine:
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,807 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   GEN: Alert, interactive, NAD
   CV: RRR, GI systolic murmer at LLSB and apex
   PULM: CTAB anteriorly
   ABD: +BS, soft, NT/ND
   EXTR: b/l AKA
   Labs / Radiology
   215 K/uL
   10.0 g/dL
   64 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.3 mEq/L
   11 mg/dL
   101 mEq/L
   134 mEq/L
   32.0 %
   6.6 K/uL
        [image002.jpg]
                             [**2139-8-28**]  10:07 PM
                             [**2139-8-29**]  04:14 AM
                             [**2139-8-29**]  08:08 AM
                             [**2139-8-29**]  02:42 PM
                             [**2139-8-29**]  09:38 PM
                             [**2139-8-30**]  04:00 AM
                             [**2139-8-30**]  10:09 AM
                             [**2139-8-30**]  03:47 PM
                             [**2139-8-30**]  10:00 PM
                             [**2139-8-31**]  03:20 AM
   WBC
   6.6
   7.7
   6.6
   Hct
   35.7
   35.1
   34.6
   32.0
   Plt
   235
   225
   215
   Cr
   2.4
   2.1
   1.8
   1.9
   1.7
   1.5
   1.5
   1.4
   Glucose
   299
   97
   64
   164
   [**Telephone/Fax (2) 10487**]01
   225
   64
   Other labs: PT / PTT / INR:18.1/66.8/1.6, CK / CKMB /
   Troponin-T:40//0.77, ALT / AST:35/37, Alk Phos / T Bili:200/0.3,
   Differential-Neuts:66.9 %, Lymph:22.3 %, Mono:6.7 %, Eos:3.4 %, Lactic
   Acid:1.2 mmol/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:1.6 mg/dL
   Microbiology: [**8-30**] UCx pending
   Assessment and Plan
 . 53 yo gentleman with CAD s/p CABG, post infarction cardiomyopathy
   (EF 20-25%), moderate to severe MR, DM1, PVD s/p B LE amputations, ESRD
   s/p renal Xplant x 2 now on HD with chest pain, and acute on chronic
   systolic heart failure. S/p cardiac left and right catheterization
   yesterday.
   .
   # Chest Pain/CAD: Patient has known CAD with CABG and PCI in past.
   History sounds like unstable angina, however cardiac enzymes have been
   flat (x3), without EKG changes. Initially treated with ASA, plavix,
   heparin gtt, s/p cardiac cath [**8-27**] with stent to LIMA-LAD graft now
   chest pain free, has not needed nitro or low dose (0.5mg) morphine for
   chest pain.
   - Continue ASA, statin, plavix
   - Continue Captopril 6.25mg daily and titrate up as tolerated; keep at
   current dose today as BP optimal currently
   .
   # Acute on Chronic Systolic CHF: Patient has known global hypokinesis
   with EF 15%. Unclear what the precipitant of acute exacerbation was.
   Not believed to be ischemic etiology.  Completing CVVH today.
   - f/u with renal plans for re-initiation of HD
   - Continue Captopril at current dose for afterload reduction
   .
   # h/o UGIB: No recent bleeding; will carefully monitor Hct given ASA,
   recent heparin, and Plavix.  Hct 32 today, down from 34-35.  Will check
   PM Hct, as low clinical suspicion for bleed.
   -f/u PM Hct
   -continue PPI
   -active T&S (outdates [**9-2**])
   .
   # ESRD on HD:  CVVH today with continued fluid removal, currently 1.5L
   this morning.  Calcium acetate d/c
d given hypophos.  Renal recommended
   stopping CVVHD this morning.
   - Appreciate renal recs, particularly regarding re-initiation of HD
   .
   # Hypotension: Concern for cardiac cause given low EF d/t
   cardiomyopathy.  Tolerating MAP ~50.  Briefly on levophed and then
   dopamine, briefly on pressors, now off pressors.
   - f/u blood and urine cultures to r/o sepsis as component of
   hypotension (but afebrile, no leukocytosis, cultures negative to date)
   .
   # h/o Stroke (suspected cardioembolic): On Coumadin as an outpatient.
   INR was initially subtherapeutic, and patient was on heparin gtt. INR
   continues to be sub-therapeutic, slowly increasing following Vit K at
   OSH. Given patient in & out of afib on [**8-27**]; have goal INR [**12-30**], pt
   restarted on home dose with Heparin bridge until INR therapeutic.
   - Continue Coumadin at 5mg po daily
   - Continue heparin gtt until INR therapeutic
   .
   # Diabetes: Continue glargine, SSI, qid fingersticks. Diabetic diet.
   .
   # Hyperkalemia: K 7.4 on admission, now resolved.. Unclear etiology
   (per patient and wife, has been going to dialysis three times a week
   regularly).
   .
   # Decreased O2 sats:  Transiently, believed to be due to fluid overload
   from CHF; now resolved with CVVHD.
   .
   # Recurrent UTIs: Does not appear infected clinically.  Most likely he
   is chronically colonized.  Will hold on abx tx for now, consider
   starting if pt symptomatic.
   .
   # Groin pain, back pack: On Oxycodone as needed.
   .
   # Gout: Allopurinol 100mg PO daily
   .
   # Tooth abscess:  d/c
ed Penicillin V, as presumed sufficient course.
   ICU Care
   Nutrition: Cardiac, diabetic, renal diet / CVVH / replete lytes PRN
   Glycemic Control:  glargine, SSI
   Lines:
   Multi Lumen - [**2139-8-24**] 07:44 PM
   Dialysis Catheter - [**2139-8-24**] 09:16 PM
   Prophylaxis:
   DVT: coumadin, heparin gtt
   Stress ulcer: PPI
   VAP:  not intubated
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 66**] status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Attending Progress Note
   I have reviewed the daily progress note by Dr. [**First Name (STitle) **] today and I concur
   with the history, physical examination, assessment and treatment plan.
   Additions to the progress notes: The CC is severe shortness of breath.
   The HPI includes that findings that Mr. [**Known lastname 10403**] is a 53 year old man
   with complicated diabetes mellitus resulting in advanced peripheral
   vascular disease and LE and digit amputations, end stage kidney disease
   requiring dialysis and dialysis, and coronary artery disease (s/p CABG
   and recent stenting of the LIMA-LAD native vessel disease.  He has a
   known cardiomyopathy (LVEF = 20%).   He has not had additional chest
   pain since his stent procedure.
   There are no changes in the family history or social history.
   An additional 1.5-2.0 L fluid was removed over the past 24 hours.
   Captopril 6.25 mg and metopolol have been added and tolerated
   hemodynamically.
   We are currently proceeding with continue diuresis and he has tolerated
   afterload reduction with captopril along with his antiplatelet agents.
   The treatment plan discussed with the patient and all questions
   addressed.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**] [**Pager number 10469**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2139-8-31**] 21:38 ------

2139-09-01 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -CVVH discontinued yesterday afternoon, plan to re-initiate HD today
   -Assisted back to bed last evening
 pt did all the work of transfer,
   SOB and desaturated subsequently, O2 increased to 4L.
   -Low grade temps last evening Tmax99.9.
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Penicillin G potassium - [**2139-8-30**] 05:09 AM
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-9-1**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.2
C (97.1
   HR: 86 (86 - 108) bpm
   BP: 81/39(49) {69/33(42) - 110/67(84)} mmHg
   RR: 18 (5 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.6 kg (admission): 73 kg
   Height: 60 Inch
             Total In:
                                                                  1,816 mL
                                                                     40 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                  1,096 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  2,067 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -251 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   GEN: Alert, interactive, NAD
   CV: RRR, GI systolic murmer at LLSB and apex
   PULM: CTAB anteriorly
   ABD: +BS, soft, NT/ND
   EXTR: b/l AKA
   Labs / Radiology
   230 K/uL
   10.3 g/dL
   146 mg/dL
   2.2 mg/dL
   25 mEq/L
   4.3 mEq/L
   23 mg/dL
   98 mEq/L
   133 mEq/L
   33.1 %
   7.5 K/uL
        [image002.jpg]
                             [**2139-8-29**]  08:08 AM
                             [**2139-8-29**]  02:42 PM
                             [**2139-8-29**]  09:38 PM
                             [**2139-8-30**]  04:00 AM
                             [**2139-8-30**]  10:09 AM
                             [**2139-8-30**]  03:47 PM
                             [**2139-8-30**]  10:00 PM
                             [**2139-8-31**]  03:20 AM
                             [**2139-8-31**]  01:46 PM
                             [**2139-9-1**]  04:45 AM
   WBC
   7.7
   6.6
   7.5
   Hct
   35.1
   34.6
   32.0
   33.5
   33.1
   Plt
   [**Telephone/Fax (3) 10501**]
   Cr
   1.8
   1.9
   1.7
   1.5
   1.5
   1.4
   1.4
   2.2
   Glucose
   64
   164
   308
   159
   114
   [**Telephone/Fax (2) 10502**]4
   146
   Other labs: PT / PTT / INR:19.7/150.0/1.8, CK / CKMB /
   Troponin-T:40//0.77, ALT / AST:35/37, Alk Phos / T Bili:200/0.3,
   Differential-Neuts:66.9 %, Lymph:22.3 %, Mono:6.7 %, Eos:3.4 %, Lactic
   Acid:1.2 mmol/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Microbiology: URINE CULTURE (Final [**2139-8-31**]):
   --MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT WITH FECAL
   CONTAMINATION.
   Assessment and Plan
 53 yo gentleman with CAD s/p CABG, post infarction cardiomyopathy (EF
   20-25%), moderate to severe MR, DM1, PVD s/p B LE amputations, ESRD s/p
   renal Xplant x 2 now on HD with chest pain, and acute on chronic
   systolic heart failure. S/p cardiac left and right catheterization
   yesterday.
   .
   # Low Grade Fever:  Tmax 100.1 overnight, no leukocytosis, no clear
   source or evidence of infection.
   - Pull R IJ to eliminate source of infection
   - Blood culture from IJ and HD line
   - CXR
   .
   # Acute on Chronic Systolic CHF: Patient has known global hypokinesis
   with EF 15%. Unclear what the precipitant of acute exacerbation was.
   Not believed to be ischemic etiology.  Completed CVVH yesterday, did
   not receive HD today as SBP 70
s overnight, will f/u with Renal re:
   re-initiating HD, possibly today.
   - Hold Metoprolol, Captopril
   - f/u with renal again for re-initiation of HD once BP increases; SBP
   during outpt dialysis 90
   .
   # Chest Pain/CAD: Patient has known CAD with CABG and PCI in past.
   History sounds like unstable angina, however cardiac enzymes have been
   flat (x3), without EKG changes. Initially treated with ASA, plavix,
   heparin gtt, s/p cardiac cath [**8-27**] with stent to LIMA-LAD graft now
   chest pain free, has not needed nitro or low dose (0.5mg) morphine for
   chest pain.
   - Continue ASA, statin, plavix
   - Hold Captopril 6.25mg today for HD
   .
   # Decreased O2 sats:  Transiently, believed to be due to fluid overload
   from CHF; now resolved with CVVHD.  Brief episode yesterday while
   transferring to bed with significant exertion, will need PT/rehab
   in-house and following discharge.
   .
   # ESRD on HD:  Calcium acetate d/c
d given hypophos.  CVVH discontinued
   yesterday with 2L removed, net even (-0.2cc), plan to re-initiate HD
   today per Renal.  Elevated Cr today, anticipate improvement with HD.
   - Appreciate renal recs re: HD today with holding of anti-hypertensives
   as above
   - Hold anti-hypertensives as above
   .
   # Recurrent UTIs: Does not appear infected clinically.  Most likely he
   is chronically colonized.  Will hold on abx tx for now, consider
   starting if pt symptomatic.  Low grade fever Tmax 99 overnight but UCx
   from [**8-31**] showed fecal contamination (>3 colonies) without dominant
   growth of one colony, suggesting no infection.  Will monitor for signs
   of infection.
   .
   # h/o UGIB: No recent bleeding; will carefully monitor Hct given ASA,
   recent heparin, and Plavix.  Hct 32 today, down from 34-35, stable
   since.  Low clinical suspicion for bleed.
   -continue PPI
   -active T&S (outdates [**9-2**])
   .
   # h/o Stroke (suspected cardioembolic): On Coumadin as an outpatient.
   INR was initially subtherapeutic, and patient was on heparin gtt. INR
   continues to be sub-therapeutic, slowly increasing following Vit K at
   OSH. Given patient in & out of afib on [**8-27**]; have goal INR [**12-30**], pt
   restarted on home dose with Heparin bridge until INR therapeutic.
   - Continue Coumadin at 5mg po daily
   - Continue heparin gtt until INR therapeutic
   .
   # Hypotension: Concern for cardiac cause given low EF d/t
   cardiomyopathy.  Tolerating MAP ~50.  Briefly on levophed and then
   dopamine, briefly on pressors, now off pressors.
   .
   # Diabetes: Continue glargine, SSI, qid fingersticks. Diabetic diet.
   .
   # Hyperkalemia: K 7.4 on admission, now resolved.. Unclear etiology
   (per patient and wife, has been going to dialysis three times a week
   regularly).
   .
   # Groin pain, back pack: On Oxycodone as needed.
   .
   # Gout: Allopurinol 100mg PO daily
   .
   # Tooth abscess:  d/c
ed Penicillin V, as presumed sufficient course.
   ICU Care
   Nutrition: Cardiac, diabetic, renal diet / CVVH / replete lytes PRN
   Glycemic Control:  glargine, SSI
   Lines:
   Multi Lumen - [**2139-8-24**] 07:44 PM
   Dialysis Catheter - [**2139-8-24**] 09:16 PM
   Prophylaxis:
   DVT: coumadin, heparin gtt
   Stress ulcer: PPI
   VAP:  not intubated
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 66**] status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Attending Progress Note
   I have reviewed the daily progress note by Dr. [**First Name (STitle) **] today and I concur
   with the history, physical examination, assessment and treatment
   plan.   My examination today is consistent with the documented physical
   examination.
   Mr. [**Known lastname 10403**] is improving daily with his symptoms and is attempting
   transfer from his bed to a chair with assistance, but he is fatigued
   and needs to regain more strength.
   He was unable to undergo hemodialysis today due to hypotension and we
   will hold his captopril 6.25 mg and metopolol as needed to permit
   hemodialysis.
   The treatment plan discussed with the patient and all questions
   addressed.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**] [**Pager number 10469**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2139-9-1**] 20:05 ------

2139-09-02 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Eager to go
   home.
   24 Hour Events:
 MULTI LUMEN - STOP [**2139-9-1**] 01:11 PM
 BLOOD CULTURED - At [**2139-9-1**] 04:00 PM
   from dialysis line
   No chest pressure/pain, no AP. Breathing improved. Feels well. Wants to
   have dialysis today.
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-9-2**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 88 (83 - 105) bpm
   BP: 88/73(76) {66/11(17) - 109/73(76)} mmHg
   RR: 17 (15 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.6 kg (admission): 73 kg
   Height: 60 Inch
             Total In:
                                                                    589 mL
                                                                     54 mL
   PO:
                                                                    415 mL
             TF:
   IVF:
                                                                    174 mL
                                                                     54 mL
   Blood products:
   Total out:
                                                                     15 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    574 mL
                                                                     54 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   GEN: NAD, resting in bed, cooperative
   CV: RRR, II/VI SEM loudest at RUSB
   PULM: CTAB, no rales/crackles
   ABD: soft, nt, nd
   Labs / Radiology
   243 K/uL
   9.9 g/dL
   146 mg/dL
   2.2 mg/dL
   25 mEq/L
   4.3 mEq/L
   23 mg/dL
   98 mEq/L
   133 mEq/L
   32.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2139-8-29**]  02:42 PM
                             [**2139-8-29**]  09:38 PM
                             [**2139-8-30**]  04:00 AM
                             [**2139-8-30**]  10:09 AM
                             [**2139-8-30**]  03:47 PM
                             [**2139-8-30**]  10:00 PM
                             [**2139-8-31**]  03:20 AM
                             [**2139-8-31**]  01:46 PM
                             [**2139-9-1**]  04:45 AM
                             [**2139-9-2**]  06:44 AM
   WBC
   7.7
   6.6
   7.5
   7.0
   Hct
   34.6
   32.0
   33.5
   33.1
   32.0
   Plt
   [**Telephone/Fax (3) 10524**]43
   Cr
   1.9
   1.7
   1.5
   1.5
   1.4
   1.4
   2.2
   Glucose
   164
   308
   159
   114
   [**Telephone/Fax (2) 10502**]4
   146
   Other labs: PT / PTT / INR:21.4/140.9/2.0, CK / CKMB /
   Troponin-T:40//0.77, ALT / AST:35/37, Alk Phos / T Bili:200/0.3,
   Differential-Neuts:66.9 %, Lymph:22.3 %, Mono:6.7 %, Eos:3.4 %, Lactic
   Acid:1.2 mmol/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   CXR [**9-1**]: Mild-to-moderate cardiomegaly has minimally improved. Large
   pleural effusions have decreased in amount, now small in size. Resolved
   pulmonary edema and improved bibasilar atelectasis.
   Right supraclavicular catheter in standard position. Right IJ catheter
   tip in the right brachiocephalic vein. No evident pneumothorax.
   Assessment and Plan
   53 yo gentleman with CAD s/p CABG, post infarction cardiomyopathy (EF
   20-25%), moderate to severe MR, DM1, PVD s/p B LE amputations, ESRD s/p
   renal Xplant x 2 now on HD with chest pain, and acute on chronic
   systolic heart failure. S/p cardiac left and right catheterization.
   .
   # Low Grade Fever:  Tmax 99.5 overnight (no temperature spike), no
   leukocytosis, no clear source or evidence of infection, no evident
   pneumonia on CXR.
   - Pulled R IJ yesterday
   - Blood culture from IJ and HD line, f/u
   - Urine is colonized, so could treat for UTI, but feel no treatment
   necessary for now as asymptomatic, without temp spike or leukocytosis
   .
   # Acute on Chronic Systolic CHF: Patient has known global hypokinesis
   with EF 15%. Unclear what the precipitant of acute exacerbation was.
   Not believed to be ischemic etiology.  Completed CVVH yesterday, did
   not receive HD yesterday as SBP 70
s overnight, will f/u with Renal re:
   re-initiating HD, possibly today.
   - Hold parameters for Metoprolol, Captopril d/t lower BP
   - f/u with renal regarding re-initiation of HD today; SBP during
   outpatient dialysis noted to be in the 90
   .
   # Chest Pain/CAD: Patient has known CAD with CABG and PCI in past.
   History sounds like unstable angina, however cardiac enzymes have been
   flat (x3), without EKG changes. Initially treated with ASA, plavix,
   heparin gtt, s/p cardiac cath [**8-27**] with stent to LIMA-LAD graft now
   chest pain free; has not needed nitro or low dose (0.5mg) morphine for
   chest pain.
   - Continue ASA, statin, plavix
   .
   # Hypotension: Concern for cardiac cause given low EF d/t
   cardiomyopathy.  Tolerating MAP ~50.  Briefly on levophed and then
   dopamine; now off pressors. Overnight, SBP mostly in the 80s.
   - Hold parameters for metoprolol, captopril
   .
   # Decreased O2 sats:  Transiently, believed to be due to fluid overload
   from CHF; now resolved with CVVHD.  Brief episode two days ago, while
   transferring to bed, will need PT/rehab both as inpatient, and
   following discharge. SpO2 overnight mostly low/mid-90s.
   - Hopefully dialysis today
   - PT f/u
   .
   # ESRD on HD:  CVVH discontinued 2 days ago, hope to re-initiate HD
   today per Renal.  Elevated Cr today, anticipate improvement with HD.
   - Appreciate renal recs re: hopefully HD today
   - hold parameters for anti-hypertensives as above
   .
   # Recurrent UTIs: Does not appear infected clinically.  Most likely he
   is chronically colonized.  Will hold on abx tx for now, consider
   starting if pt symptomatic.  Low grade fever overnight but UCx from
   [**8-31**] showed fecal contamination (>3 colonies). Will monitor for signs
   of infection.
   .
   # h/o UGIB: No recent bleeding; will carefully monitor Hct given ASA,
   recent heparin, and Plavix.  Hct stable-low today. Low clinical
   suspicion for bleed.
   -continue PPI
   -T&S re-ordered this AM ([**9-2**])
   .
   # h/o Stroke (suspected cardioembolic): On Coumadin as an outpatient.
   INR was initially subtherapeutic, and patient was on heparin gtt. INR
   continues to be sub-therapeutic, slowly increasing following Vit K at
   OSH. Given patient in & out of afib on [**8-27**]; have goal INR [**12-30**], pt
   restarted on home dose with Heparin bridge until INR therapeutic (at
   minimal therapeutic level of 2.0 this morning, so will continue heparin
   until really in therapeutic range).
   - Continue Coumadin at 5mg po daily
   - Continue heparin gtt until within INR therapeutic
   .
   # Diabetes: Continue glargine, SSI, qid fingersticks. BS
s in 400s
   yesterday
   - Readjust glargine dose and SSI
   - Diabetic diet
   .
   # Hyperkalemia: K 7.4 on admission, now resolved. Unclear etiology (per
   patient and wife, has been going to dialysis three times a week
   regularly).
   .
   # Groin pain, back pack: On Oxycodone as needed.
   .
   # Gout: Allopurinol 100mg PO daily
   .
   # Tooth abscess:  d/c
ed Penicillin V, as presumed sufficient course.
   ICU Care
   Nutrition: Cardiac, diabetic, renal diet / CVVH / replete lytes PRN
   Glycemic Control:  glargine, SSI
   Lines:
   Dialysis Catheter - [**2139-8-24**] 09:16 PM
   22 Gauge - [**2139-9-1**] 01:00 PM
   Prophylaxis:
   DVT: coumadin, heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU ; after dialysis hopefully to floor and/or home with
   PT & services (patient does not want to go to rehab).

2139-09-03 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Feels
   well.
   24 Hour Events:
   Had a full dialysis session yesterday, during which was transfused 1
   unit pRBC. Was given midodrine 5mg yesterday prior to dialysis to help
   with blood pressure control during dialysis.
   Tolerated the HD well.
   Per renal, plan for another dialysis session tomorrow morning, and then
   return to M/W/F regular dialysis session schedule. Hold
   antihypertensives tomorrow morning prior to dialysis session.
   Patient feels well
 no chest pain/pressure, no SOB, no abdominal pain,
   not lightheaded. Eager to go home. Felt stronger working with PT.
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-9-3**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 98 (83 - 107) bpm
   BP: 115/57(67) {66/11(20) - 115/62(72)} mmHg
   RR: 24 (11 - 33) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.6 kg (admission): 73 kg
   Height: 60 Inch
             Total In:
                                                                  1,157 mL
                                                                     56 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    182 mL
                                                                     56 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    657 mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ////
   Physical Examination
   Labs / Radiology
   216 K/uL
   10.8 g/dL
   157 mg/dL
   3.2 mg/dL
   26 mEq/L
   4.1 mEq/L
   27 mg/dL
   98 mEq/L
   138 mEq/L
   34.6 %
   6.6 K/uL
        [image002.jpg]
                             [**2139-8-29**]  02:42 PM
                             [**2139-8-29**]  09:38 PM
                             [**2139-8-30**]  04:00 AM
                             [**2139-8-30**]  10:09 AM
                             [**2139-8-30**]  03:47 PM
                             [**2139-8-30**]  10:00 PM
                             [**2139-8-31**]  03:20 AM
                             [**2139-8-31**]  01:46 PM
                             [**2139-9-1**]  04:45 AM
                             [**2139-9-2**]  06:44 AM
   WBC
   7.7
   6.6
   7.5
   7.0
   Hct
   34.6
   32.0
   33.5
   33.1
   32.0
   Plt
   [**Telephone/Fax (3) 10524**]43
   Cr
   1.9
   1.7
   1.5
   1.5
   1.4
   1.4
   2.2
   3.5
   Glucose
   164
   308
   159
   114
   [**Telephone/Fax (2) 10502**]4
   146
   99
   Other labs: PT / PTT / INR: Redrawn - pending, CK / CKMB /
   Troponin-T:40//0.77, ALT / AST:35/37, Alk Phos / T Bili:200/0.3,
   Differential-Neuts:66.9 %, Lymph:22.3 %, Mono:6.7 %, Eos:3.4 %, Lactic
   Acid:1.2 mmol/L, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   53 yo gentleman with CAD s/p CABG, post infarction cardiomyopathy (EF
   20-25%), moderate to severe MR, DM1, PVD s/p B LE amputations, ESRD s/p
   renal Xplant x 2 now on HD with chest pain, and acute on chronic
   systolic heart failure. S/p cardiac left and right catheterization.
   .
   # Low Grade Fever:  Resolved, without a temperature spike yesterday or
   the day before; no leukocytosis, no clear source or evidence of
   infection, pulled R IJ on [**9-1**]
 preliminary micro wound culture read:
   no growth
   - f/u blood cultures
   - urine is colonized (klebsiella), so could treat for UTI, but feel no
   treatment necessary for now as asymptomatic, without temp spike or
   leukocytosis
   .
   # Acute on Chronic Systolic CHF: Patient has known global hypokinesis
   with EF 15%. Unclear what the precipitant of acute exacerbation was.
   Not believed to be ischemic etiology.  Completed CVVH series; had full
   HD yesterday. LOS fluid balance: negative 7 liters
   - Discontinue captopril
   - Hold parameters for Metoprolol d/t lower BP
   - Continue HD M/W/F
   .
   # Chest Pain/CAD: Patient has known CAD with CABG and PCI in past.
   History sounds like unstable angina, however cardiac enzymes have been
   flat (x3), without EKG changes. Initially treated with ASA, plavix,
   heparin gtt, s/p cardiac cath [**8-27**] with stent to LIMA-LAD graft now
   chest pain free since then.
   - Continue ASA, statin, plavix
   .
   # Hypotension: Concern for cardiac cause given low EF d/t
   cardiomyopathy.  Tolerating MAP ~50.  Briefly on levophed and then
   dopamine; now off pressors.
   - Hold parameters for metoprolol
   - Discontinue captopril
   - Hold antihypertensives tomorrow AM prior to dialysis session
   .
   # Decreased O2 sats:  Transiently, believed to be due to fluid overload
   from CHF; now resolved with CVVHD.  Brief episode two days ago, while
   transferring to bed, will need PT/rehab both as inpatient, and
   following discharge. SpO2 overnight mostly mid-90s.
   - Continue dialysis M/W/F
   - PT f/u
   .
   # ESRD on HD:  Had HD yesterday. Cr improved s/p HD.
   - Appreciate renal recs
   - Resume M/W/F HD sessions
   - Hold antihypertensives tomorrow morning prior to HD, per renal
   .
   # Recurrent UTIs: Does not appear infected clinically.  Most likely he
   is chronically colonized.  Will hold on abx tx for now, consider
   starting if pt symptomatic. Low-grade fevers have resolved. Will
   monitor for signs of infection.
   .
   # h/o UGIB: No recent bleeding; will carefully monitor Hct given ASA,
   recent heparin, and Plavix.  Hct stable-low today. Low clinical
   suspicion for bleed.
   -continue PPI
   -T&S last ordered on [**9-2**]
   .
   # h/o Stroke (suspected cardioembolic): On Coumadin as an outpatient.
   INR was initially subtherapeutic, and patient was on heparin gtt. INR
   continues to be sub-therapeutic, slowly increasing following Vit K at
   OSH. Given patient in & out of afib on [**8-27**]; have goal INR [**12-30**], pt
   restarted on home dose with Heparin bridge until INR therapeutic.
   PT/PTT/INR pending. If INR [**12-30**], will d/c heparin gtt, if not yet at
   goal, will continue heparin drip.
   - Continue Coumadin at 5mg po daily
   - F/U coag panel today
   .
   # Diabetes: Continue glargine, SSI, qid fingersticks. BS
s in 200s-400s
   yesterday
   - Readjust glargine dose and SSI for better glucose control
   - Diabetic diet
   .
   # Hyperkalemia: K 7.4 on admission, now resolved. Unclear etiology (per
   patient and wife, has been going to dialysis three times a week
   regularly). K improved s/p HD.
   .
   # Groin pain, back pack: On Oxycodone as needed.
   .
   # Gout: Allopurinol 100mg PO daily
   .
   # Tooth abscess:  d/c
ed Penicillin V, as presumed sufficient course
   ICU Care
   Nutrition: Cardiac, diabetic, renal diet
   Electrolytes: Replete lytes PRN
   Glycemic Control:  glargine, SSI
   Lines:
   Dialysis Catheter - [**2139-8-24**] 09:16 PM
   22 Gauge - [**2139-9-1**] 01:00 PM
   Prophylaxis:
   DVT: coumadin, heparin gtt
   Stress ulcer:
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to the floor today ; dialysis tomorrow morning ;
   then if tolerates session well, likely home with PT
   ------ Protected Section ------
   Attending Progress Note
   I have reviewed the daily progress note by Dr. [**Last Name (STitle) 10454**] today and I concur
   with the history, physical examination, assessment and treatment
   plan.   My examination today is consistent with the documented physical
   examination by Dr. [**Last Name (STitle) 10454**].
   Mr. [**Known lastname 10403**] is a 53 year old gentleman with CAD s/p CABG and a
   recent stent to the LAD (via the LIMA).  He has a known cardiomyopathy
   (LVEF 20-25%), moderate to severe MR, PVD s/p B LE amputations due to
   diabetic vascular disease, ESRD s/p renal transplant x 2 now on HD.  He
   has undergone a successful transition from CVVH to hemodialysis and has
   tolerated this transition hemodynamically.    He is symptomatically
   much improved and back to his baseline respiratory state.
   He is much improved, able to transfer from bed, feels stronger and base
   to baseline respiratory status, and ready emotionally to go home.  He
   was net positive yesterday but was able to undergo hemodialysis
   yesterday.  A repeat HD session is planned for tomorrow prior to
   discharge.   We will discontinue his Captopril and continue beta
   blockers as we transition to outpatient management.
   The treatment plan discussed with the patient and all questions
   addressed.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**] [**Pager number 10469**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2139-9-3**] 21:27 ------

2139-09-04 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   None.
   24 Hour Events:
 CALLED OUT
   Patient feels well, breathing better, denies pain.
   Eager to go home.
   Allergies:
   Erythromycin Base
   Rash;
   Protamine
   Unknown;
   Minoxidil
   ? hearing loss;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-9-3**] 08:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-9-4**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 96 (89 - 100) bpm
   BP: 94/51(62) {90/28(30) - 117/69(79)} mmHg
   RR: 22 (12 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 73 kg
   Height: 60 Inch
                  Total In:
                                                                    631 mL
                                                                    120 mL
   PO:
                                                                    560 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     71 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                      0 mL
   Urine:
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    481 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95% on 3L NC
   ABG: ///27/
   Physical Examination
   Deferred as patient set up with dialysis.
   Labs / Radiology
   245 K/uL
   11.2 g/dL
   287 mg/dL
   4.2 mg/dL
   27 mEq/L
   4.7 mEq/L
   36 mg/dL
   95 mEq/L
   133 mEq/L
   36.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2139-8-30**]  04:00 AM
                             [**2139-8-30**]  10:09 AM
                             [**2139-8-30**]  03:47 PM
                             [**2139-8-30**]  10:00 PM
                             [**2139-8-31**]  03:20 AM
                             [**2139-8-31**]  01:46 PM
                             [**2139-9-1**]  04:45 AM
                             [**2139-9-2**]  06:44 AM
                             [**2139-9-3**]  07:22 AM
                             [**2139-9-4**]  02:47 AM
   WBC
   7.7
   6.6
   7.5
   7.0
   6.6
   7.5
   Hct
   34.6
   32.0
   33.5
   33.1
   32.0
   34.6
   36.5
   Plt
   [**Telephone/Fax (3) 10524**]43
   216
   245
   Cr
   1.7
   1.5
   1.5
   1.4
   1.4
   2.2
   3.5
   3.2
   4.2
   Glucose
   159
   114
   201
   225
   64
   [**Telephone/Fax (2) 10541**]7
   287
   Other labs: PT / PTT / INR:37.8/150.0/3.9, CK / CKMB /
   Troponin-T:40//0.77, ALT / AST:35/37, Alk Phos / T Bili:200/0.3,
   Differential-Neuts:66.9 %, Lymph:22.3 %, Mono:6.7 %, Eos:3.4 %, Lactic
   Acid:1.2 mmol/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   53 yo gentleman with CAD s/p CABG, post infarction cardiomyopathy (EF
   20-25%), moderate to severe MR, DM1, PVD s/p B LE amputations, ESRD s/p
   renal Xplant x 2 now on HD with chest pain, and acute on chronic
   systolic heart failure. S/p cardiac left and right catheterization.
   .
   # Low Grade Fever:  Resolved, without a temperature spike for >48
   hours; no leukocytosis, no clear source or evidence of infection,
   pulled R IJ on [**9-1**]
 preliminary micro wound culture read: no growth
   - f/u blood cultures
   - urine is colonized (klebsiella), so could treat for UTI, but feel no
   treatment necessary for now as asymptomatic, without temp spike or
   leukocytosis
   .
   # Acute on Chronic Systolic CHF: Patient has known global hypokinesis
   with EF 15%. Unclear what the precipitant of acute exacerbation was.
   Not believed to be ischemic etiology.  Completed CVVH series; had full
   HD yesterday. LOS fluid balance: negative 7 liters
   - Discontinued captopril
   - Hold parameters for Metoprolol d/t lower BP
   - Continue HD M/W/F
   .
   # Chest Pain/CAD: Patient has known CAD with CABG and PCI in past.
   History sounds like unstable angina, however cardiac enzymes have been
   flat (x3), without EKG changes. Initially treated with ASA, plavix,
   heparin gtt, s/p cardiac cath [**8-27**] with stent to LIMA-LAD graft now
   chest pain free since then.
   - Continue ASA, statin, plavix
   .
   # Hypotension: Concern for cardiac cause given low EF d/t
   cardiomyopathy.  Tolerating MAP ~50.  Briefly on levophed and then
   dopamine; now off pressors.
   - Hold parameters for metoprolol
   - Discontinued captopril
   - Hold antihypertensives in the AM prior to dialysis session
   .
   # Decreased O2 sats:  Transiently, believed to be due to fluid overload
   from CHF; now resolved with CVVHD.  Brief episode two days ago, while
   transferring to bed, will need PT/rehab both as inpatient, and
   following discharge. SpO2 overnight mostly mid-90s.
   - Continue dialysis M/W/F
   - PT f/u
   .
   # ESRD on HD:  Had HD yesterday. Cr improved s/p HD.
   - Appreciate renal recs
   - Resume M/W/F HD sessions
   - Hold antihypertensives in AM prior to HD, per renal
   .
   # Recurrent UTIs: Does not appear infected clinically.  Most likely he
   is chronically colonized.  Will hold on abx tx for now, consider
   starting if pt symptomatic. Low-grade fevers have resolved. Will
   monitor for signs of infection.
   .
   # h/o UGIB: No recent bleeding; will carefully monitor Hct given ASA,
   recent heparin, and Plavix.  Hct stable-low today. Low clinical
   suspicion for bleed.
   -continue PPI
   -T&S last ordered on [**9-2**]
   .
   # h/o Stroke (suspected cardioembolic): On Coumadin as an outpatient.
   INR was initially subtherapeutic, and patient was on heparin gtt. INR
   continues to be sub-therapeutic, slowly increasing following Vit K at
   OSH. Given patient in & out of afib on [**8-27**]; have goal INR [**12-30**], pt
   restarted on home dose coumadin with Heparin bridge until INR
   therapeutic. INR supratherapeutic today.
   - Recheck coags at HD, as labs drawn off heparinized HD line today so
   concern for spurious values
   - Redose coumadin and/or heparin as needed based on coag panel later
   today
   .
   # Diabetes: Continue glargine, SSI, qid fingersticks. Readjusted
   glargine dose and SSI for better glucose control yesterday.
   - Monitor sugars s/p changes to regimen
   - Diabetic diet
   .
   # Hyperkalemia: K 7.4 on admission, now resolved. Unclear etiology (per
   patient and wife, has been going to dialysis three times a week
   regularly). K improved s/p HD.
   .
   # Groin pain, back pack: On Oxycodone as needed.
   .
   # Gout: Allopurinol 100mg PO daily
   ICU Care
   Nutrition: Cardiac, diabetic, renal diet
   Electrolytes: Replete lytes PRN
   Glycemic Control:  glargine, SSI
   Lines:
   Dialysis Catheter - [**2139-8-24**] 09:16 PM
   22 Gauge - [**2139-9-1**] 01:00 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer:
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to the floor today; dialysis this morning ; then
   if tolerates session well, plan for home today (with PT, [**Name (NI) **], ?home O2
   if needed)
   ------ Protected Section ------
   Attending Progress Note
   I have reviewed the daily progress note by Dr. [**Last Name (STitle) 10454**] today and I concur
   with the history, physical examination, assessment and treatment
   plan.
   History:  Documented by Dr. [**Last Name (STitle) 10454**]
   Physical:  Documented by Dr. [**Last Name (STitle) 10454**]
   Medical Decision Making:   Mr. [**Known lastname 10403**] is a 53 year old gentleman
   with CAD s/p CABG and a recent stent to the LAD (via the LIMA).  He has
   a known cardiomyopathy (LVEF 20-25%), moderate to severe MR, PVD s/p B
   LE amputations due to diabetic vascular disease, ESRD s/p renal
   transplant x 2 now on HD.  He has undergone a successful transition
   from CVVH to hemodialysis and has tolerated this transition
   hemodynamically.    He is symptomatically much improved and back to his
   baseline respiratory state.
   HD was performed today and he felt well afterward.
   He will be discharged to home from the CCU today.
   [**First Name4 (NamePattern1) 5899**] [**Last Name (NamePattern1) 8906**] [**Pager number 10469**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2139-9-4**] 20:40 ------